US05834491
1,1'-(1,16-hexadecanediyl)bis(4-ethyl-2(1H)-pyridinimine) dihydrobromide
Starting from 4-ethyl-2-aminopyridine described by Hansch and 1,16-dibromohexadecane, the derivative of the title, m.p. 105°/110° C., is obtained.

reactant | 4-ethyl-2-aminopyridine | C(C)C1=CC(=NC=C1)N | C7H10N2
reactant | 1,16-dibromohexadecane | BrCCCCCCCCCCCCCCCCBr | C16H32Br2
product | 1,1'-(1,16-hexadecanediyl)bis(4-ethyl-2(1H)-pyridinimine) dihydrobromide | Br.Br.C(CCCCCCCCCCCCCCCN1C(C=C(C=C1)CC)=N)N1C(C=C(C=C1)CC)=N | InChI=1S/C30H50N4.2BrH/c1-3-27-19-23-33(29(31)25-27)21-17-15-13-11-9-7-5-6-8-10-12-14-16-18-22-34-24-20-28(4-2)26-30(34)32;;/h19-20,23-26,31-32H,3-18,21-22H2,1-2H3;2*1H
